US05684006
Step A: 1-(4-Benzylpiperazin-1-yl)-3-phenyl-propan-2-one
To a solution of 1-chloro-3-phenyl-propan-2-one (10 g, 59 mmol) in dichloromethane (100 ml) was added benzylpiperazine (12.3 ml, 71 mmol) and triethylamine (8.2 ml, 59 mmol). The yellow solution was stirred overnight at ambient temperature and water was added (50 ml). The organic phase was decanted, washed with brine (50 ml), dried (sodium sulphate) and evaporated. The residue was purified by column chromatography on silica using petroleum ether (60-80) ethyl acetate to afford a yellow oil (2.4 g, 13%). 1H NMR (250 MHz, CDCl3) δ 2.30-2.64 (8H, m), 3.19 (2H, s), 3.51 (2H, s), 3.74 (2H, s), 7.17-7.38 (10H, m).

reactant | 1-chloro-3-phenyl-propan-2-one | 59 mmol, 10 g | ClCC(CC1=CC=CC=C1)=O | C9H9ClO
reactant | benzylpiperazine | 71 mmol, 12.3 ml | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | triethylamine | 59 mmol, 8.2 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(4-Benzylpiperazin-1-yl)-3-phenyl-propan-2-one | 2.4 g, 13% | C(C1=CC=CC=C1)N1CCN(CC1)CC(CC1=CC=CC=C1)=O | C20H24N2O
